US07435823B2
Pyridine (1.0 mL) was added to a mixture of 6-(3-fluoro-6,7-dimethoxyquinolin-4-yloxy)-1-naphthoyl chloride (prepared from 6-(3-fluoro-6,7-dimethoxyquinolin-4-yloxy)-1-naphthoic acid and oxalyl chloride by the procedure described in Example 273) (0.044 g, 0.107 mmol) and 3-amino-5-t-butylisoxazole (0.075 g, 0.535 mmol). The mixture stirred at 80° C. for 10 h and was then cooled to RT. The mixture was concentrated and the residue was purified by preparative thin layer chromatography on silica gel plates (eluting with 5% MeOH—CH2Cl2). Further purification via preparative thin layer chromatography on silica gel plates (eluting with 90:10:1 CH2Cl2:MeOH1:NH4OH) afforded N-(5-(1,1-dimethylethyl)-3-isoxazolyl)-6-((3-fluoro-6,7-bis(methoxy)-4-quinolinyl)oxy)-1-naphthalenecarboxamide as an off-white solid. MS (ESI, pos. ion) m/z: 516.0 (M+H). Mass Calc'd for C29H26FN3O5: 515.5

reactant | 6-(3-fluoro-6,7-dimethoxyquinolin-4-yloxy)-1-naphthoyl chloride | FC=1C=NC2=CC(=C(C=C2C1OC=1C=C2C=CC=C(C2=CC1)C(=O)Cl)OC)OC | C22H15ClFNO4
reactant | 6-(3-fluoro-6,7-dimethoxyquinolin-4-yloxy)-1-naphthoic acid | FC=1C=NC2=CC(=C(C=C2C1OC=1C=C2C=CC=C(C2=CC1)C(=O)O)OC)OC | C22H16FNO5
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-amino-5-t-butylisoxazole | 0.535 mmol, 0.075 g | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
solvent | Pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-(1,1-dimethylethyl)-3-isoxazolyl)-6-((3-fluoro-6,7-bis(methoxy)-4-quinolinyl)oxy)-1-naphthalenecarboxamide | CC(C)(C)C1=CC(=NO1)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=C(C=NC2=CC(=C(C=C12)OC)OC)F | C29H26FN3O5
